US07238716B2
To a mixture of [4-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]phenyl]methanol (4.50 g), tetrahydrofuran (50 mL) and toluene (50 mL) was added a solution (5 mL) of thionyl chloride (1.5 mL) in toluene under ice-cooling, and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was concentrated and the residue was dissolved in ethyl acetate. The mixture was washed successively with saturated aqueous sodium hydrogencarbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give colorless crystals (4.50 g, 94%) of 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenylthiazole. melting point: 100-101° C.

reactant | [4-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]phenyl]methanol | 4.50 g | CC1=C(N=C(S1)C1=CC=CC=C1)COC1=CC=C(C=C1)CO | C18H17NO2S
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenylthiazole | 4.50 g, 94% | ClCC1=CC=C(OCC=2N=C(SC2C)C2=CC=CC=C2)C=C1 | C18H16ClNOS
